US05120347
A mixture of the 1-(3-fluorobenzoyl)-4-ethyl semicarbazide and 1N NaOH solution (100 mL) was refluxed for 20 hr, cooled to room temperature and neutrallized with conc. HCl. The suspension was extracted with ethyl acetate and the organic layer was dried over MgSO4. Removal of the solvent in vacuo yielded 7.3 g of 3-(3-fluorophenyl)-4-ethyl-1,2,4-triazolin-5-one as a white solid. mp 135°-140° C.

reactant | 1-(3-fluorobenzoyl)-4-ethyl semicarbazide | FC=1C=C(C(=O)NNC(=O)NCC)C=CC1 | C10H12FN3O2
reactant | HCl | Cl | ClH
solvent | NaOH | 1N, 100 mL | [OH-].[Na+]
product | 3-(3-fluorophenyl)-4-ethyl-1,2,4-triazolin-5-one | 7.3 g | FC=1C=C(C=CC1)C1N=NC(N1CC)=O | C10H10FN3O
